US05492905
Example 2. 3-Amino-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine.
2,5-Dihydro-2,5-dioxo-3-methoxy-1H-benz[b]azepine (0.4 g) was treated with 80 mL of liquid anhydrous ammonia chilled to -78° C. The mixture was sealed in a pressure vessel and warmed to 23° C. for 18 hours. The excess ammonia was evaporated to give a solid. The solid was dissolved in hot methanol (120 mL); the solution was filtered and evaporated to 60 mL; and crystallization was initiated by cooling the solution in an ice bath. The solid was filtered, washed (cold methanol) and dried under vacuum (25° C., 15 Pa) to give the title compound (0.28 g); mp 295.2-296.5° C. (dec); NMR: 11.38 )s,1, NH), 8.09 dd,1, J=8.2, 1.6), 7.54 (m,1), 7.44 (dd,1, J=8.2, 1.6), 7.21 (m,1), 6.23 (s,1). Analysis for C10H8N2O2 : Calculated: C, 63.82; H, 4.28; N, 14.89; Found: C, 63.80; H, 4.41; N, 14.87.

reactant | 2,5-Dihydro-2,5-dioxo-3-methoxy-1H-benz[b]azepine | 0.4 g | O=C1C(=CC(C2=C(N1)C=CC=C2)=O)OC | C11H9NO3
reactant | ammonia | N | H3N
solvent | methanol | 120 mL | CO | CH4O
product | 3-Amino-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 0.28 g | NC1=CC(C2=C(NC1=O)C=CC=C2)=O | C10H8N2O2
